US07074809B2
2-[5-(3-Cyano-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-caboxylic acid tert-butyl ester
In a 50 mL round bottom flask equipped with stir bar, added 2-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester (327 mg, 1.34 mmol), dichloromethane (5 mL) and triethylamine (0.56 mL, 4.03 mmol). To this stirred mixture was added a solution of 3-cyanobenzoyl chloride (222 mg, 1.34 mmol) in dichloromethane (3 mL). The resulting reaction mixture was stirred at room temperature for 2 h. DMF (5 mL) was added to the reaction mixture and stirred at 120° C. for 2 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (50 mL). The organic phase was successively washed with water (30 mL) and brine (20 mL), dried (sodium sulfate), filtered and concentrated in vacuo. The crude residue was purified on silica gel using 20% ethyl acetate in hexanes to isolate 106 mg of the title compound as a white solid. 1H-NMR (CDCl3), δ(ppm): 8.42 (s, 1H), 8.35 (d, 1H), 7.86 (dd, 1H), 7.67 (t, 1H), 5.56 (bs, 1H), 4.11 (bd, 1H), 3.04 (bs, 1H), 2.32 (d, 1H), 1.97 (m, 1H), 1.69 (t, 1H), 1.48 (m, 12H).

reactant | 2-(N-hydroxycarbamimidoyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.34 mmol, 327 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C(NO)=N | C11H21N3O3
reactant | triethylamine | 4.03 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | 3-cyanobenzoyl chloride | 1.34 mmol, 222 mg | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[5-(3-Cyano-phenyl)-[1,2,4]oxadiazol-3-yl]-piperidine-1-caboxylic acid tert-butyl ester | 106 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)C1=NOC(=N1)C1=CC(=CC=C1)C#N | C19H22N4O3
